US04946854
3.5 ml of oxalyl chloride are added dropwise at room temperature over a period of 30 minutes to a suspension of 7.68 g of 2,6-dichloro-3-nitrobenzoic acid amide in 570 ml of methylene chloride. The batch is then heated at reflux temperature for 18 hours and the solvent is subsequently distilled off in vacuo, affording 8.6 g of crude 2,6-dichloro-3-nitrobenzoyl isocyanate which can be used directly in the subsequent reactions.

reactant | oxalyl chloride | 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,6-dichloro-3-nitrobenzoic acid amide | 7.68 g | ClC1=C(C(=O)N)C(=CC=C1[N+](=O)[O-])Cl | C7H4Cl2N2O3
solvent | methylene chloride | 570 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-3-nitrobenzoyl isocyanate | 8.6 g | ClC1=C(C(=O)N=C=O)C(=CC=C1[N+](=O)[O-])Cl | C8H2Cl2N2O4
